US07417057B2
Step A Synthesis of 3-(4-Methoxy-3-methylphenoxy)propanenitrile as an Intermediate
A solution of 7.0 grams (0.050 mole) of 3-methyl-4-methoxyphenol (known compound) in 20 mL of acrylonitrile was stirred, and 0.4 mL of benzyltrimethylammonium hydroxide (Triton® B) was added. Upon completion of addition, the reaction mixture was warmed to reflux where it stirred during a 21 hour period. The reaction mixture was then cooled to ambient temperature and diluted with 100 mL of diethyl ether. The mixture was then first washed with three 50 mL portions of an aqueous solution of 10% potassium hydroxide, then with three 50 mL portions of aqueous 4N hydrochloric acid. The organic layer was dried with sodium sulfate, and the mixture was filtered. The filtrate was concentrated under reduced pressure, yielding 6.0 grams of the subject compound. The NMR spectrum was consistent with the proposed structure.

reactant | 3-methyl-4-methoxyphenol | 0.050 mole, 7.0 grams | CC=1C=C(C=CC1OC)O | C8H10O2
reactant | benzyltrimethylammonium hydroxide | 0.4 mL | [OH-].C(C1=CC=CC=C1)[N+](C)(C)C
solvent | acrylonitrile | 20 mL | C(C=C)#N | C3H3N
solvent | diethyl ether | 100 mL | C(C)OCC | C4H10O
product | 3-(4-Methoxy-3-methylphenoxy)propanenitrile | 6.0 grams | COC1=C(C=C(OCCC#N)C=C1)C | C11H13NO2
